US07981874B2
Ethyl {3-[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]-3-oxopropyl}methylphosphinate.
4-{3-[(ethyloxy)(methyl)phosphoryl]propanoyl}benzoic acid (1 g, 3.52 mmol), 1,1-dimethylethyl [2-amino-4-(2-thienyl)phenyl]carbamate (1.532 g, 5.28 mmol), DIPEA (0.922 mL, 5.28 mmol) and BOP (2.334 g, 5.28 mmol) were stirred in DMF (10 mL) at room temperature overnight. Saturated NaHCO3 was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with water and brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by MPLC (0-20% MeOH-EtOAc) gave ethyl {3-[4-({[2-[({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]-3-oxopropyl}methylphosphinate as an orange solid. MS: cal'd 457 (MH+-Boc), exp 457 (MH+-Boc).

reactant | 4-{3-[(ethyloxy)(methyl)phosphoryl]propanoyl}benzoic acid | 3.52 mmol, 1 g | C(C)OP(=O)(C)CCC(=O)C1=CC=C(C(=O)O)C=C1 | C13H17O5P
reactant | 1,1-dimethylethyl [2-amino-4-(2-thienyl)phenyl]carbamate | 5.28 mmol, 1.532 g | NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C15H18N2O2S
reactant | DIPEA | 5.28 mmol, 0.922 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | BOP | 5.28 mmol, 2.334 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl {3-[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]-3-oxopropyl}methylphosphinate | CC(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)C(CCP(OCC)(=O)C)=O | C28H33N2O6PS
